US06337344B1
1-(3-Pyridyl)-methyl-1H-indole-2-carboxylic acid 4-dimethylamino-benzylamide
This compound was prepared from 1-(3-pyridyl-methyl)-1H-indole-2-carboxylic acid (200 mg, 0.79 mmol), diphenylphosphoryl azide (222.7 μl, 1.03 mmol), N,N-diisopropylethylamine (364 μl), and 4-dimethylamino-benzylamine dihydrochloride (632.3 mg, 2.84 mmol) in N,N-dimethylformamide (10 ml) as described in example 3/1. The purification by flash chromatography on silica gel was done with toluene/ethyl acetate first 6:1, then going to pure ethyl acetate in two steps: 228.7 mg (76%) of the desired product were obtained. M.p. 108-110° C. MS: 385.3 (M+H+).

reactant | 1-(3-pyridyl-methyl)-1H-indole-2-carboxylic acid | 0.79 mmol, 200 mg | N1=CC(=CC=C1)CN1C(=CC2=CC=CC=C12)C(=O)O | C15H12N2O2
reactant | diphenylphosphoryl azide | 1.03 mmol, 222.7 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N,N-diisopropylethylamine | 364 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-dimethylamino-benzylamine dihydrochloride | 2.84 mmol, 632.3 mg | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-Pyridyl)-methyl-1H-indole-2-carboxylic acid 4-dimethylamino-benzylamide | 228.7 mg, 76% | CN(C1=CC=C(CNC(=O)C=2N(C3=CC=CC=C3C2C)C=2C=NC=CC2)C=C1)C | C24H24N4O
